US06313122B1
A. 2-Nitro-N-(4-chlorophenyl)benzamide
Using the procedure described in Example 93, Part A, 4-chloroaniline (11.8 mmol) and 2-nitrobenzoyl chloride (12.9 mmol) yielded 2.07 g (64%) of the title compound.

reactant | 4-chloroaniline | 11.8 mmol | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 2-nitrobenzoyl chloride | 12.9 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | 2-Nitro-N-(4-chlorophenyl)benzamide | 2.07 g, 64% | [N+](=O)([O-])C1=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC=C1 | C13H9ClN2O3
